US06949579B2
14.2 cm3 of tetrabutylammonium fluoride as a 1M solution in tetrahydrofuran are added to 1.3 g of N-[6-[2-chloro-4-(phenylmethoxy)phenyl]-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, described previously, in 60 cm3 of tetrahydrofuran, and the mixture is refluxed for 18 hours; after cooling, 75 cm3 of ethyl acetate are added and the organic phase is washed successively with 50 cm3 of saturated sodium hydrogen carbonate solution and with 50 cm3 of saturated sodium chloride solution. The organic phase is separated out after settling of the phases has taken place, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2 kPa; 50° C.) to give 1.8 g of crude product, which is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 3.5 cm), eluting with a cyclohexane/ethyl acetate mixture (60/40 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.) and the residue is taken up in 10 cm3 of diisopropyl ether, filtered off, washed with 2×10 cm3 of diisopropyl ether and dried under reduced pressure (90 Pa; 45° C.) to give 600 mg of N-[6-[2-chloro-4-(phenylmethoxy)phenyl]-1H-indazol-3-yl]butanamide in the form of white crystals.

reactant | tetrabutylammonium fluoride | 14.2 cm3 | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-[6-[2-chloro-4-(phenylmethoxy)phenyl]-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1.3 g | ClC1=C(C=CC(=C1)OCC1=CC=CC=C1)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C30H36ClN3O3Si
reactant | ethyl acetate | 75 cm3 | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 cm3 | O1CCCC1 | C4H8O
product | N-[6-[2-chloro-4-(phenylmethoxy)phenyl]-1H-indazol-3-yl]butanamide | 600 mg | ClC1=C(C=CC(=C1)OCC1=CC=CC=C1)C1=CC=C2C(=NNC2=C1)NC(CCC)=O | C24H22ClN3O2
